US08703758B2
H) 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-one
To a solution of 4-[({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)acetyl]morpholine (881 mg) in THF (10 mL) was added a solution (1.5 M, 2.84 mL) of methylmagnesium bromide in toluene/THF under ice-cooling. The mixture was stirred at 0° C. for 1 hr and extracted with ethyl acetate and 1M hydrochloric acid. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (556 mg).

reactant | 4-[({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)acetyl]morpholine | 881 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)OCC(=O)N2CCOCC2)C=C1 | C24H31NO5
reactant | methylmagnesium bromide | 1.5 M, 2.84 mL | C[Mg]Br
reactant | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-({trans-4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)propan-2-one | 556 mg | C1(CC1)COC1=CC2=C(C=C(O2)[C@@H]2CC[C@H](CC2)OCC(C)=O)C=C1 | C21H26O4
